US05198462
N-(6-Chloro-4-phenylisocoumarin-3-yl)-N'-(2,4-difluorophenyl)urea
To a mixture of 6-chloro-4-phenylisocoumarin-3-carboxylic acid (1.50 g), diphenyl phosphoryl azide (DPPA) (1.43 ml) and benzene (50 ml) was added dropwise triethylamine (0.71 ml) while stirring at room temperature. This mixture was stirred for one hour at room temperature and for 30 minutes under reflux, then there was added 2,4-difluoroaniline (0.80 ml), followed by refluxing for 2 hours. The reaction mixture was cooled, and then washed with water, diluted hdyrochloric acid, an aqueous solution of sodium hydrogencarbonate and water, successively, then dried (Na2SO4), followed by distilling off the solvent. The residue was subjected to a silica gel column chromatography (hexane-acetone=4:1) to afford the above-titled compound as colorless crystals (0.90 g).

reactant | 6-chloro-4-phenylisocoumarin-3-carboxylic acid | 1.50 g | ClC=1C=C2C(=C(OC(=O)C2=CC1)C(=O)O)C1=CC=CC=C1 | C16H9ClO4
reactant | diphenyl phosphoryl azide | 1.43 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | 2,4-difluoroaniline | 0.80 ml | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | triethylamine | 0.71 ml | C(C)N(CC)CC | C6H15N
product | N-(6-Chloro-4-phenylisocoumarin-3-yl)-N'-(2,4-difluorophenyl)urea | 0.90 g | ClC=1C=C2C(=C(OC(=O)C2=CC1)NC(=O)NC1=C(C=C(C=C1)F)F)C1=CC=CC=C1 | C22H13ClF2N2O3
